US07105567B2
To a solution of (4-isopropylphenyl){(4-(2,2,2-trifluoroethoxy)phenyl)methyl}amine (1.12 g) in toluene (15 mL) was added 2,6-diisopropylphenyl isocyanate (1.1 mL), and the mixture was stirred at overnight room temperature. The reaction mixture was washed with saturated brine, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography. The obtained crystals were subjected to recrystallization from diisopropyl ether to give N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-{(4-(2,2,2-trifluoroethoxy)phenyl)methyl}urea (0.54 g). melting point: 138° C.

reactant | (4-isopropylphenyl){(4-(2,2,2-trifluoroethoxy)phenyl)methyl}amine | 1.12 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)OCC(F)(F)F | C18H20F3NO
reactant | 2,6-diisopropylphenyl isocyanate | 1.1 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-{(4-(2,2,2-trifluoroethoxy)phenyl)methyl}urea | 0.54 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)OCC(F)(F)F)C1=CC=C(C=C1)C(C)C)=O | C31H37F3N2O2
